US05721222
2-(3-Trifluoroacetylamino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-[3,3-difluoro-1-isopropyl-3-[N-(2-morpholinoethyl)carbamoyl]propyl]acetamide
To a solution of 2-(3-amino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-[3,3-difluoro-1-isopropyl-3-[N-(2-morpholinoethyl)carbamoyl]propyl]acetamide (0.27 g) in dichloromethane (5 mL) was added trifluoroacetic anhydride (0.105 mL). After 2 hours the solution was evaporated to give a crude oil. The oil was purified by chromatography, twice; (first column) with dichloromethane:methanol (gredient, 98:2, 97:3, 96:4) as the eluent and (second column) with ethyl acetate:ether (6:4) and chloroform:methanol (95:5) as the eluent. The resulting material was triturated with hexane and ether to give the title compound as a tan solid (0.092 g); TLC: Rf =0.38, ethyl acetate:ether (7:3); NMR: 10.39 (s,1), 9.04 (broad s,1), 8.52 (d,1), 8.01 (d,1), 7.52-7.37 (m,5), 6.29 (d,1), 4.82 (m,1), 4.52 (s,2), 3.54 (m,4), 3.26 (m,2), 2.35-2.21 (m,7), 0.86 (d,3), 0.74 (d,3); MS: m/z=630 (M+I). Analysis for C28H32F5N5 O6.0.3 H2O: Calculated: C, 52.96; H, 5.17; N, 11.03: Found: C, 53.07; H, 5.14; N, 10.73.

reactant | 2-(3-amino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-[3,3-difluoro-1-isopropyl-3-[N-(2-morpholinoethyl)carbamoyl]propyl]acetamide | 0.27 g | NC=1C(N(C(=CC1)C1=CC=CC=C1)CC(=O)NC(CC(C(NCCN1CCOCC1)=O)(F)F)C(C)C)=O | C26H35F2N5O4
reactant | trifluoroacetic anhydride | 0.105 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-(3-Trifluoroacetylamino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-[3,3-difluoro-1-isopropyl-3-[N-(2-morpholinoethyl)carbamoyl]propyl]acetamide | 0.092 g | FC(C(=O)NC=1C(N(C(=CC1)C1=CC=CC=C1)CC(=O)NC(CC(C(NCCN1CCOCC1)=O)(F)F)C(C)C)=O)(F)F | C28H34F5N5O5
